US07683076B2
N-(3-Hydroxy-1,2,3,4-tetrahydroquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea
5-Amino-1,2,3,4-tetrahydroquinolin-3-ol (36.4 mg, 0.22 mmol) is dissolved in dichloromethane and cooled to −20° C. 4-Trifluoromethylbenzylisocyanate (44.6 mg, 0.22 mmol) is added and the reaction mixture is warmed to room temperature over 4 h. The organic layer is diluted with dichloromethane, washed with aq. NH4Cl and water. The organic phase is dried over magnesium sulfate, filtered and evaporated to dryness. The crude product consists of a mixture of regioisomers and is separated using preparative HPLC with an acetonitrile/water gradient.

reactant | 5-Amino-1,2,3,4-tetrahydroquinolin-3-ol | 0.22 mmol, 36.4 mg | NC1=C2CC(CNC2=CC=C1)O | C9H12N2O
reactant | 4-Trifluoromethylbenzylisocyanate | 0.22 mmol, 44.6 mg | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(3-Hydroxy-1,2,3,4-tetrahydroquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea | OC1CNC2=CC=CC(=C2C1)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C18H18F3N3O2
